US07217714B1
Methyl 4-(2-imino-2-methoxyethyl)benzoate
To a solution of methyl 4-(bromomethyl)benzoate (5.00 g, 21.8 mmol) and acetone cyanohydrin (3 ml, 32.7 mmol) stirring at room temperature in acetonitrile (200 ml) was added 1,1,3,3-tetramethylguanidine (5.8 ml, 45.8 mmol) and the mixture stirred for 16 hours. The solvent was removed under reduced pressure. The residue was triturated with diethyl ether (×3), filtered and the filtrate evaporated under reduced pressure. The residue was purified by filtering through a pad of silica, eluting with diethyl ether to afford a colorless oil, 4.0 g. The oil was dissolved in 200 ml of diethyl ether and gaseous hydrogen chloride was bubbled though the solution until saturated while stirring at 0° C. Methanol (1.5 ml, 37.2 mmol) was added and the mixture stirred for 1 hour. The solvents were removed under reduced pressure and the residue was basified using saturated sodium carbonate solution and extracted with dichloromethane (×3). The combined organic solutions were dried (MgSO4), filtered and evaporated under reduced pressure to afford the title compound as a colourless oil, 4.20 g.

reactant | methyl 4-(bromomethyl)benzoate | 21.8 mmol, 5.00 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | acetone cyanohydrin | 32.7 mmol, 3 ml | CC(C#N)(O)C | C4H7NO
reactant | 1,1,3,3-tetramethylguanidine | 45.8 mmol, 5.8 ml | CN(C(=N)N(C)C)C | C5H13N3
reactant | Methanol | 37.2 mmol, 1.5 ml | CO | CH4O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | Methyl 4-(2-imino-2-methoxyethyl)benzoate | N=C(CC1=CC=C(C(=O)OC)C=C1)OC | C11H13NO3
